US07262192B2
5-Vinylpyridin-2-amine
Vinyltributyltin (13 mL, 44.6 mmol), palladium(II) acetate (0.45 g, 2.1 mmol), triethylamine (12.4 mL, 89.1 mmol) and tri-(o-tolyl)phosphine (3.69 g, 12.15 mmol) were added to a solution of 5-bromopyridin-2-amine (7.0 g, 40.5 mmol) in acetonitrile (70 mL) and the reaction mixture refluxed for 18 hours. The reaction mixture was washed with 2M sodium carbonate solution (80 mL), the organics separated, dried over magnesium sulphate, filtered and concentrated in vacuo. The crude product was purified by column chromatography on silica gel using methanol:dichloromethane 3:97 to yield 3.6 g of product. This residue was dissolved in dichloromethane and washed with aqueous solutions of potassium fluoride and then sodium hydrogencarbonate. The organic solution was dried over magnesium sulphate, filtered and concentrated in vacuo to yield 1.9 g of final product.

reactant | Vinyltributyltin | 44.6 mmol, 13 mL | C(=C)[Sn](CCCC)(CCCC)CCCC
reactant | triethylamine | 89.1 mmol, 12.4 mL | C(C)N(CC)CC | C6H15N
reactant | tri-(o-tolyl)phosphine | 12.15 mmol, 3.69 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 5-bromopyridin-2-amine | 40.5 mmol, 7.0 g | BrC=1C=CC(=NC1)N | C5H5BrN2
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 2.1 mmol, 0.45 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-Vinylpyridin-2-amine | 3.6 g | C(=C)C=1C=CC(=NC1)N | C7H8N2
